US07632857B2
(4′-Methanesulfonyl-4-trifluoromethyl-biphenyl-3-yl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared in a manner substantially analogous to Example 14 via Procedure F′ from (4-bromo-2-trifluoromethyl-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone and 4-methanesulfonylbenzene boronic acid (CAS 149104-88-1). MS (FIA) 481 (MH+)

reactant | (4-bromo-2-trifluoromethyl-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | BrC1=CC(=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1)C(F)(F)F | C17H20BrF3N2O
reactant | 4-methanesulfonylbenzene boronic acid | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
product | (4′-Methanesulfonyl-4-trifluoromethyl-biphenyl-3-yl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | CS(=O)(=O)C1=CC=C(C=C1)C1=CC(=C(C=C1)C(F)(F)F)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C24H27F3N2O3S
